US08003785B2
To a mixture of 0.06 g (0.13 mmole) of 4-(9-cyclopentyl-5-ethyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-156), 0.06 g (0.17 mmole) of 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate and 2 mL of dimethylformamide was added 0.06 mL (0.33 mmole) of diisopropylethylamine. After stirring at room temperature for 30 minutes 0.04 mL (0.33 mmole) of 3-(dimethylamino)-propylamine was added. The mixture was stirred for 18 hours, and then diluted with ethyl acetate and water. The aqueous phase was extracted twice with ethyl acetate. The combined organic layers were washed with water then brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with methanol-dichloromethane (gradient, 0:100-25:75) to give 0.030 g of 4-(9-cyclopentyl-5-ethyl-7,7-difluoro-6-oxo-6,7,8,9-tetra-hydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(3-dimethylamino-propyl)-3-methoxy-benzamide (I-160).

reactant | 4-(9-cyclopentyl-5-ethyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.13 mmole, 0.06 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)CC)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate | 0.17 mmole, 0.06 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | diisopropylethylamine | 0.33 mmole, 0.06 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(dimethylamino)-propylamine | 0.33 mmole, 0.04 mL | CN(CCCN)C | C5H14N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-5-ethyl-7,7-difluoro-6-oxo-6,7,8,9-tetra-hydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(3-dimethylamino-propyl)-3-methoxy-benzamide | 0.030 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)CC)C=NC(=N2)NC2=C(C=C(C(=O)NCCCN(C)C)C=C2)OC | C27H37F2N7O3
